US05002585
Preparation of 2-(β-chloroethoxycarbonyl)amino-4-nitro-1,3,5-trimethoxybenzene
0.26 moles (60 g) of 2-amino-4-nitro-1,3,5-trimethoxybenzene are dissolved in 270 ml of dioxane. 26.3 g of calcium carbonate are added and the temperature is then raised to about 90° C. 0.34 moles (48.6 g) of chloroethyl chloroformate are then added with stirring. When the addition is complete, stirring is continued for additional 30 minutes at 90° C. The reaction mixture is diluted with 600 ml of iced water and is then acidified by adding 25 ml of concentrated hydrochloric acid. The precipitate obtained is filtered off and washed with water. After drying, it melts at 133° C.

reactant | 2-amino-4-nitro-1,3,5-trimethoxybenzene | 0.26 moles, 60 g | NC1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C9H12N2O5
reactant | calcium carbonate | 26.3 g | C([O-])([O-])=O.[Ca+2]
reactant | chloroethyl chloroformate | 0.34 moles, 48.6 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | dioxane | 270 ml | O1CCOCC1 | C4H8O2
solvent | water | 600 ml | O | H2O
product | 2-(β-chloroethoxycarbonyl)amino-4-nitro-1,3,5-trimethoxybenzene | ClCCOC(=O)NC1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C12H15ClN2O7
